US05654316
3,4-Dichloro-beta-[2-[(4-chlorophenyl)methylamino]-2-oxoethyl]benzenepropanoic acid
3-(3,4-Dichlorophenyl)glutaric anhydride (10.0 g) in CH2Cl2 (150 mL) at 0° C. was treated sequentially with 4-chloro-N-methylaniline (6.8 g), triethylamine (4.87 g) and N,N-dimethylaminopyridine (0.5 g). The mixture was stirred at 0° C. for two hours then allowed to warm to room temperature and stirred for 12 hours. The reaction mixture was washed with 1N HCl (3×100 mL) and water (100 mL). The organic layers were dried over MgSO4, filtered and concentrated to afford the title compound (14.9 g).

reactant | 3-(3,4-Dichlorophenyl)glutaric anhydride | 10.0 g | ClC=1C=C(C=CC1Cl)C1CC(=O)OC(C1)=O | C11H8Cl2O3
reactant | 4-chloro-N-methylaniline | 6.8 g | ClC1=CC=C(NC)C=C1 | C7H8ClN
reactant | triethylamine | 4.87 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 3,4-Dichloro-beta-[2-[(4-chlorophenyl)methylamino]-2-oxoethyl]benzenepropanoic acid | 14.9 g | ClC=1C=C(C=CC1Cl)C(CC(=O)O)CC(=O)NCC1=CC=C(C=C1)Cl | C18H16Cl3NO3
